US04419121
22.2 ml of boron tribromide are added dropwise, under nitrogen and at room temperature, over 15 minutes to a suspension of 39 g of 2-methoxyphenylsulfonamide in 210 ml of dry methylene chloride. The reaction mixture is then stirred for 1 hour at room temperature. After the mixture has been cooled to 0° C., 200 ml of methanol are added over 15 minutes and the clear solution is concentrated. The oily residue is taken up in ethyl acetate and the solution is washed twice with water, dried over sodium sulfate, and evaporated to dryness. The residue is triturated with petroleum ether, affording 25.1 g of 2-hydroxyphenylsulfonamide with a melting point of 136°-138° C.

reactant | boron tribromide | 22.2 ml | B(Br)(Br)Br | BBr3
reactant | 2-methoxyphenylsulfonamide | 39 g | COC1=C(C=CC=C1)S(=O)(=O)N | C7H9NO3S
reactant | methanol | 200 ml | CO | CH4O
solvent | methylene chloride | 210 ml | C(Cl)Cl | CH2Cl2
product | 2-hydroxyphenylsulfonamide | 25.1 g | OC1=C(C=CC=C1)S(=O)(=O)N | C6H7NO3S
